### PR TITLE
[Merged by Bors] - feat(Order/LiminfLimsup): add `iSup_liminf_le_liminf_iSup`

### PR DESCRIPTION
**Pull request by pitmonticone**
Add `Filter.iSup_liminf_le_liminf_iSup`: the supremum of liminfs is bounded by the liminf of the pointwise supremum.

Upstreamed from the [Carleson](https://github.com/fpvandoorn/carleson) project.

Co-authored-by: Leo Diedering <129694072+ldiedering@users.noreply.github.com>

---

### CODE REVIEW

File: Mathlib/Order/LiminfLimsup.lean [hunk 1]
```diff
@@ -466,6 +466,14 @@ theorem bliminf_eq_iSup_biInf_of_nat {p : ℕ → Prop} {u : ℕ → α} :
     bliminf u atTop p = ⨆ i, ⨅ (j) (_ : p j ∧ i ≤ j), u j :=
   @blimsup_eq_iInf_biSup_of_nat αᵒᵈ _ p u
 
+theorem iSup_liminf_le_liminf_iSup {f : Filter β} {u : ι → β → α} :
+    ⨆ i, liminf (u i) f ≤ liminf (fun b ↦ ⨆ i, u i b) f := by
+  simp only [iSup_le_iff]
+  intro i
+  rw [liminf_eq_iSup_iInf, liminf_eq_iSup_iInf]
+  gcongr with s hs b hb
+  exact le_iSup (fun i ↦ u i b) i
```
Comment (ADedecker) [inline Mathlib/Order/LiminfLimsup.lean]:
```suggestion
    ⨆ i, liminf (u i) f ≤ liminf (fun b ↦ ⨆ i, u i b) f :=
  iSup_le fun i ↦ liminf_le_liminf <| .of_forall fun b ↦ le_iSup (u · b) i
```
Could you also prove the dual statement?

Comment (pitmonticone) [reply Mathlib/Order/LiminfLimsup.lean]: Done.

**Comment by ADedecker** [comment]
Thanks!

bors merge
